US08685969B2
2. Benzyl 3-(2-amino-1-(6-bromo-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate
To a mixture of benzyl 3-(1-(6-bromo-1H-indol-3-yl)-2-nitroethyl)-2-methylphenylcarbamate (3.00 g, 5.90 mmol) and ammonium chloride (4.42 g, 83 mmol) in methanol (100 mL) and tetrahydrofuran (100 mL) at 0° C. was added zinc dust (5.40 g, 83 mmol) in one portion. The mixture was stirred at room temperature for 7 hr, then diluted with ethyl acetate (100 mL) and filtered through CELITE®. The filtrate was concentrated under vacuum. To the residue was added water (60 mL), and the mixture was extracted with ethyl acetate (4×80 mL). The combined extract was washed with brine (60 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (2.82 g, 5.89 mmol, 100% yield) as a beige solid.

reactant | benzyl 3-(1-(6-bromo-1H-indol-3-yl)-2-nitroethyl)-2-methylphenylcarbamate | 5.90 mmol, 3.00 g | BrC1=CC=C2C(=CNC2=C1)C(C[N+](=O)[O-])C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C25H22BrN3O4
reactant | ammonium chloride | 83 mmol, 4.42 g | [Cl-].[NH4+]
solvent | methanol | 100 mL | CO | CH4O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 83 mmol, 5.40 g | [Zn] | Zn
product | Benzyl 3-(2-amino-1-(6-bromo-1H-indol-3-yl)ethyl)-2-methylphenylcarbamate | 5.89 mmol, 2.82 g, 100% yield | NCC(C1=CNC2=CC(=CC=C12)Br)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C25H24BrN3O2
